US03954764
19 G. of 1-(2-chloro-8-fluoro-10,11-dihydro-dibenzo[b,f]thiepin-10-yl)piperazine are together with 15 g. of pulverized potassium carbonate, 0.3 g of potassium iodide and 150 ml. of toluene reacted with 20.4 g of N-(beta-chloroethyl)-oxazolidinone and heated under reflux conditions for 20 hours. The reaction mixture is poured over water and diluted with benzene. The organic phase is thereafter washed with saturated, aqueous sodium bicarbonate solution and water, dried over magnesium sulfate and evaporated under reduced pressure, whereby there is obtained 3-{2-[4-(2-chloro-8-fluoro-10,11-dihydrodibenzo[b,f]thiepin-10-yl)-1-piperazinyl]-ethyl}-2-oxazolidinone which is treated with maleic acid to form the corresponding maleate which has a melting point of 164°-166°.

reactant | 1-(2-chloro-8-fluoro-10,11-dihydro-dibenzo[b,f]thiepin-10-yl)piperazine | ClC1=CC2=C(SC3=C(C(C2)N2CCNCC2)C=C(C=C3)F)C=C1 | C18H18ClFN2S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.3 g | [I-].[K+]
reactant | N-(beta-chloroethyl)-oxazolidinone | 20.4 g | ClCCN1C(OCC1)=O | C5H8ClNO2
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-{2-[4-(2-chloro-8-fluoro-10,11-dihydrodibenzo[b,f]thiepin-10-yl)-1-piperazinyl]-ethyl}-2-oxazolidinone | ClC1=CC2=C(SC3=C(C(C2)N2CCN(CC2)CCN2C(OCC2)=O)C=C(C=C3)F)C=C1 | C23H25ClFN3O2S
